US04738970
0.7 Gram of 4-allyloxy-8-(2-benzimidazolyl)thio-3-methyl-5,6,7,8-tetrahydroquinoline was dissolved in 30 ml of methylene chloride, then this solution was cooled to -50° to 31 60° C., next to this solution was added dropwise a solution prepared by dissolving 0.43 g of 80%-meta-chloroperbenzoic acid in 10 ml of methylene chloride, and the reaction mixture was stirred for 20 minutes at the above-mentioned temperature. After the reaction was completed, the reaction mixture was washed with an aqueous solution of sodium carbonate, and dried with anhydrous magnesium sulfate. Methylene chloride was removed by evaporation under reduced pressure, the residue thus obtained was recrystallized from diethyl ether to obtain 0.4 g of 4-allyloxy-8-(2-benzimidazolyl)sulfinyl-3-methyl-5,6,7,8-tetrahydroquinoline. White powdery crystals. Melting point: 100°-102° C. (decomposed)

reactant | 4-allyloxy-8-(2-benzimidazolyl)thio-3-methyl-5,6,7,8-tetrahydroquinoline | C(C=C)OC1=C(C=NC=2C(CCCC12)SC=1NC2=C(N1)C=CC=C2)C | C20H21N3OS
reactant | meta-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-allyloxy-8-(2-benzimidazolyl)sulfinyl-3-methyl-5,6,7,8-tetrahydroquinoline | 0.4 g | C(C=C)OC1=C(C=NC=2C(CCCC12)S(=O)C=1NC2=C(N1)C=CC=C2)C | C20H21N3O2S
